US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-(furan-2-ylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (2.00 g) obtained from Referential Example 7 was suspended in 1,2-dichloroethane (40 ml), 2-furancarbonyl chloride (1.05 g) and pyridine (626 mg) were added thereto, the mixture was refluxed for 2 hours. Water (100 ml) was added to the reaction mixture, extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and diisopropyl ether was added to the residue for trituration, collected by filtration, to thereby obtain 2.15 g of the titled compound (Yield: 77,4%).

reactant | 2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.00 g | O=C1C(CNC2=C(N1)C=C(C=C2)C)NC(=O)OC(C)(C)C | C15H21N3O3
reactant | 2-furancarbonyl chloride | 1.05 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | pyridine | 626 mg | N1=CC=CC=C1 | C5H5N
reactant | Water | 100 ml | O | H2O
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
product | 2-oxo-3-tert-butoxycarbonylamino-5-(furan-2-ylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.15 g, Yield: 77,4% | O=C1C(CN(C2=C(N1)C=C(C=C2)C)C(=O)C=2OC=CC2)NC(=O)OC(C)(C)C | C20H23N3O5
